Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough, shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ PMHx COPD (home baseline ___, recently diagnosed 
dementia, CVA, chronic back pain, recent hospitalization for 
COPD exacerbation who presents with cough/SOB from home.  She 
was admitted on ___ ___ for COPD exacerbation; CXR at 
the time showed no e/o PNA.  She was discharged on ___ on a 
steroid taper and a course of doxycycline.  She states that her 
SOB/cough persisted and presented to her PCP at ___ 
___ where CT chest showed LLL PNA; she was started on 
Levaquin on ___ ___s acyclovir for R buttock rash.  
Because of worsening productive cough and dyspnea with increase 
of her home O2 requirement to 4L this apst week, she was 
referred to the ED.  VSS o/n; admission labs were notable for 
WBC 17.6, H/H 12.7/39.5, plts 251, Na 135, K 5.6 (5.0 on 
recheck), CO2 27, BUN/Cr ___, lactate 2.3, troponin <0.01.  
Blood cultures obtained.  CXR showed possible LLL PNA.  She was 
started on vanc/cefepime and given methylpred 125 mg IV x 1 and 
duonebs.  O/n, she was transitioned to ceftriaxone/azithromycin. 
 She had no fevers/chills, but this morning continues to endorse 
cough productive of green sputum.  She reports that PTA, she was 
on 20 mg prednisone with plan to transition to 10 mg prednisone 
daily on ___ per her PCP.

 
Past Medical History:
COPD on 4L NC at home  
 Chronic back pain  
 GERD  
 Depression  
 Dementia  
 Hx of CVA  
 Hx of premalignant polyps  

 
Social History:
___
Family History:
Father - throat and stomach cancer  
 Mother - ___ cancer  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 98.7 94 124/84 18 98% on 4L NC  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM  
 Neck: Supple, JVP not elevated  
 CV: Regular rate and rhythm, normal S1 + S2  
 Lungs: Cough with deep inspiration, moves air well, scattered 
end expiratory wheezes  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present  

 GU: No foley  
 Ext: No edema  
 Skin: Red ulcerative lesion on right buttock with no current 
vesicles  
 Neuro: Grossly intact.  

DISCHARGE PHYSICAL EXAM
=======================
VS: 97.9, 112/67, 80, 16, 99% on RA.  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM  
 Neck: Supple, JVP not elevated  
 CV: Regular rate and rhythm, normal S1 + S2  
 Lungs: Cough with deep inspiration, moves air well, no 
wheezing, L lung basilar crackles  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present  

 GU: No foley  
 Ext: No edema  
 Skin: Red ulcerative lesion on right buttock with no current 
vesicles  
 Neuro: Grossly intact.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 06:49PM   GLUCOSE-210* UREA N-19 CREAT-0.8 SODIUM-135 
POTASSIUM-5.6* CHLORIDE-95* TOTAL CO2-27 ANION GAP-19
___ 06:49PM   cTropnT-<0.01
___ 06:49PM   WBC-17.6* RBC-4.42 HGB-12.7 HCT-39.5 MCV-89 
MCH-28.7 MCHC-32.2 RDW-13.7 RDWSD-44.9
___ 06:49PM   NEUTS-90.5* LYMPHS-4.8* MONOS-3.0* EOS-0.0* 
BASOS-0.3 IM ___ AbsNeut-15.94* AbsLymp-0.85* AbsMono-0.53 
AbsEos-0.00* AbsBaso-0.06
___ 06:49PM   PLT COUNT-251
___ 06:50PM   LACTATE-2.3* K+-5.0

MICROBIOLOGY
============
___ Blood cultures x 2 pending

___ Urine culture - negative

___ Legionella urinary antigen - negative

STUDIES
=======
___ CXR
FINDINGS:  
PA and lateral views of the chest provided.   Right lung is 
clear.  Subtle 
opacity in the left lower lung could represent a very early 
pneumonia in the correct clinical setting.  No large effusion or 
pneumothorax.  The heart appears top-normal in size.  
Mediastinal contours unremarkable.  Bony structures are intact.  
No free air below the right hemidiaphragm. 
  
IMPRESSION:  
Possible left lower lobe pneumonia. 

DISCHARGE LABS
==============
___ 06:25AM BLOOD WBC-10.2* RBC-3.55* Hgb-10.1* Hct-31.9* 
MCV-90 MCH-28.5 MCHC-31.7* RDW-13.6 RDWSD-45.0 Plt ___
___ 06:25AM BLOOD Glucose-140* UreaN-15 Creat-0.7 Na-135 
K-3.6 Cl-97 HCO3-30 AnGap-12
___ 06:25AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.___ year old female with history of COPD on 2L NC at home 
presenting with pneumonia with likely component of COPD 
exacerbation.  

# Pneumonia: Pt presented with a leukocytosis to 17.6 and LLL 
opacity on OSH CT (per report) and on CXR at ___. Presentation 
consistent with CAP.  Patient experienced improvement of her 
leukocytosis and oxygen requirement (back to baseline) with 
ceftriaxone/azithromycin.  She was transitioned to levofloxacin 
with plan for a total 7-day course (d7 on ___.

# COPD exacerbation: Patient had evidence of reactive airway 
disease on exam consistence with COPD exacerbation in the 
setting of an acute pneumonia.  The patient was treated with PO 
prednisone; give her significant underlying COPD, she was 
discharged on a taper.  Patient was continued on her home 
Symbicort.

# Right buttock ulcerative lesion: Patient placed on acyclovir 
by primary care provider for possible herpetic lesion.  
Continued at discharge. 

# Hx of CVA: Continued home ASA  

# GERD: Continued home omeprazole  

# Depression: Continued home sertraline, amitriptyline, 
trazadone  

# Chronic back pain: Continued home lidocaine patch  

***TRANSITIONAL ISSUES***
- Patient to complete 7 day course of levofloxacin (d7 on ___
- Patient to be discharged on prednisone 40 mg daily until ___, 
30 mg daily ___, 20 mg daily ___, and 10 mg 
daily ___
- Patient to have outpatient follow-up with her outpatient 
pulmonologist, Dr. ___, at ___ 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Sertraline 100 mg PO DAILY 
4. Diltiazem Extended-Release 180 mg PO BID 
5. TraZODone 75 mg PO QHS 
6. Amitriptyline 25 mg PO QHS 
7. Aspirin 325 mg PO DAILY 
8. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
9. Multivitamins 1 TAB PO DAILY 
10. PredniSONE 20 mg PO DAILY 
11. Albuterol Inhaler 1 PUFF IH Q6H:PRN Wheezing 
12. Acyclovir 400 mg PO Q8H 
13. Tessalon Perles (benzonatate) 100 mg oral TID:PRN Cough 
14. Levofloxacin 750 mg PO Q24H 
15. Lidocaine 5% Patch 1 PTCH TD QAM 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Amitriptyline 25 mg PO QHS 
3. Aspirin 325 mg PO DAILY 
4. Diltiazem Extended-Release 180 mg PO BID 
5. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. PredniSONE 40 mg PO DAILY Duration: 2 Days 
last day on ___ 
Tapered dose - DOWN 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0
10. Sertraline 100 mg PO DAILY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. TraZODone 75 mg PO QHS 
13. Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin 100 mg-10 mg/5 mL 5 ml by mouth 
every six (6) hours Refills:*0
14. Albuterol Inhaler 1 PUFF IH Q6H:PRN Wheezing 
15. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION BID 
16. Tessalon Perles (benzonatate) 100 mg oral TID:PRN Cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*60 Capsule Refills:*0
17. PredniSONE 30 mg PO DAILY Duration: 2 Doses 
___ 
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0
18. PredniSONE 20 mg PO DAILY Duration: 2 Doses 
___ 
RX *prednisone 20 mg 1 tablet(s) by mouth daily Disp #*2 Tablet 
Refills:*0
19. PredniSONE 10 mg PO DAILY Duration: 2 Doses 
___ 
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*2 Tablet 
Refills:*0
20. Outpatient Physical Therapy
Please provide rollator

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Community-acquired pneumonia
Chronic obstructive pulmonary disease exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital for pneumonia 
and ongoing COPD exacerbation.  You were treated with oral 
steroids and IV antibiotics.  You were also evaluated by 
physical therapy and we found that your home oxygen requirement 
improved.  Your labs also suggested that your infection has 
improved as well.  You will be discharged home with instructions 
to continue antibiotics and steroids.

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___